### PR TITLE
feat: Multiset.prod_map_lt_prod_map

### PR DESCRIPTION
**Pull request by madvorak**
---

Zulip discussion:
https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/Multiset.2Esum_lt_sum/near/400185099

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/BigOperators/Multiset/Basic.lean [hunk 1]
```diff
@@ -406,6 +406,16 @@ theorem prod_map_le_prod_map {s : Multiset ι} (f : ι → α) (g : ι → α) (
...
 
+@[to_additive]
+theorem prod_map_lt_prod_map {s : Multiset ι} {f g : ι → α} [CovariantClass α α (· * ·) (· < ·)]
+    (all_le : ∀ i ∈ s, f i ≤ g i) (exists_lt : ∃ i ∈ s, f i < g i) :
+    (s.map f).prod < (s.map g).prod := by
+  rcases s with ⟨l⟩
+  simp only [quot_mk_to_coe'', coe_map, coe_prod]
+  apply List.prod_lt_prod'
+  · exact all_le
+  · exact exists_lt
```
Comment (eric-wieser) [inline Mathlib/Algebra/BigOperators/Multiset/Basic.lean:417]: Can you collapse this into a single term?

Comment (madvorak) [reply Mathlib/Algebra/BigOperators/Multiset/Basic.lean:417]: Yes.

File: Mathlib/Algebra/BigOperators/Multiset/Basic.lean [hunk 2]
```diff
@@ -406,6 +406,14 @@ theorem prod_map_le_prod_map {s : Multiset ι} (f : ι → α) (g : ι → α) (
 #align multiset.prod_map_le_prod_map Multiset.prod_map_le_prod_map
 #align multiset.sum_map_le_sum_map Multiset.sum_map_le_sum_map
 
+@[to_additive]
+theorem prod_map_lt_prod_map {s : Multiset ι} {f g : ι → α} [CovariantClass α α (· * ·) (· < ·)]
+    (all_le : ∀ i ∈ s, f i ≤ g i) (exists_lt : ∃ i ∈ s, f i < g i) :
```
Comment (eric-wieser) [inline Mathlib/Algebra/BigOperators/Multiset/Basic.lean:411]: I think normally we prefix proofs with `h` in some way

File: Mathlib/Algebra/BigOperators/Multiset/Basic.lean [hunk 3]
```diff
@@ -406,6 +406,14 @@ theorem prod_map_le_prod_map {s : Multiset ι} (f : ι → α) (g : ι → α) (
 #align multiset.prod_map_le_prod_map Multiset.prod_map_le_prod_map
 #align multiset.sum_map_le_sum_map Multiset.sum_map_le_sum_map
 
+@[to_additive]
+theorem prod_map_lt_prod_map {s : Multiset ι} {f g : ι → α} [CovariantClass α α (· * ·) (· < ·)]
```
Comment (eric-wieser) [inline Mathlib/Algebra/BigOperators/Multiset/Basic.lean:410]: @YaelDillies, can you confirm this assumption combined with `OrderedCommMonoid` is sensible?

Comment (YaelDillies) [reply Mathlib/Algebra/BigOperators/Multiset/Basic.lean:410]: It's not. You should use `StrictOrderedCommMonoid` instead.

Comment (madvorak) [reply Mathlib/Algebra/BigOperators/Multiset/Basic.lean:410]: Did you misspell it? Where is it defined?

Comment (madvorak) [reply Mathlib/Algebra/BigOperators/Multiset/Basic.lean:410]: `LinearOrderedCommMonoid` doesn't talk about `<` does it?

Comment (YaelDillies) [reply Mathlib/Algebra/BigOperators/Multiset/Basic.lean:410]: See my edit

Comment (madvorak) [reply Mathlib/Algebra/BigOperators/Multiset/Basic.lean:410]: Also, why do you need linear ordering?

Comment (YaelDillies) [reply Mathlib/Algebra/BigOperators/Multiset/Basic.lean:410]: Do you care about any concrete non-linear ordered monoid where multiplication is strictly monotone?

Comment (madvorak) [reply Mathlib/Algebra/BigOperators/Multiset/Basic.lean:410]: No, I don't, but in the additive version I do.

Comment (YaelDillies) [reply Mathlib/Algebra/BigOperators/Multiset/Basic.lean:410]: What's your concrete example?

Comment (madvorak) [reply Mathlib/Algebra/BigOperators/Multiset/Basic.lean:410]: Tuples of rational numbers with elementwise addition.

Comment (YaelDillies) [reply Mathlib/Algebra/BigOperators/Multiset/Basic.lean:410]: Then probably we should define `StrictOrderedCommMonoid` to mean `OrderedCommMonoid` + `CovariantClass α α (· * ·) (· < ·)`.

Comment (madvorak) [reply Mathlib/Algebra/BigOperators/Multiset/Basic.lean:410]: OK, I'll open another PR then.

Comment (madvorak) [reply Mathlib/Algebra/BigOperators/Multiset/Basic.lean:410]: Note for future reviewers:
`LinearOrderedCommMonoid` will not be used because it is neither necessary nor sufficient.

Comment (eric-wieser) [reply Mathlib/Algebra/BigOperators/Multiset/Basic.lean:410]: @YaelDillies: how about
```suggestion
-- TODO: define and use `StrictOrderedCommMonoid`
theorem prod_map_lt_prod_map {s : Multiset ι} {f g : ι → α} [CovariantClass α α (· * ·) (· < ·)]
```

Comment (madvorak) [reply Mathlib/Algebra/BigOperators/Multiset/Basic.lean:410]: In this case `List.prod_lt_prod'` should get the same TODO.

Comment (madvorak) [reply Mathlib/Algebra/BigOperators/Multiset/Basic.lean:410]: And actually many lemmas from `Mathlib.Data.List.BigOperators.Basic` could be refactored to not use `CovariantClass` mixins.

Comment (madvorak) [reply Mathlib/Algebra/BigOperators/Multiset/Basic.lean:410]: Actually I don't think that tuples of rational numbers justify `StrictOrderedCommMonoid` as we could use `OrderedCancelCommMonoid` instead.

Comment (YaelDillies) [reply Mathlib/Algebra/BigOperators/Multiset/Basic.lean:410]: Agreed. I think you should just use `OrderedCancelCommMonoid`.

**Comment by madvorak** [comment]
https://github.com/leanprover-community/mathlib4/pull/8707
